US04692182
A mixture of 2-chloro-6-nitrobenzyl bromide (17.5 g, 0.07 mole), 4,4-dimethyl-3-isoxazolidinone (11.5 g, 0.1 mole), potassium carbonate (13.8 g, 0.1 mole), and 1,4,7,10,13,16-hexaoxacyclooctadecane (0.5 g, 0.002 mole) in acetonitrile (500 ml) was stirred at ambient temperature overnight. The reaction mixture was poured into ethyl acetate (500 ml) and the mixture washed with water (3×200 ml). The dried (magnesium sulfate) ethyl acetate layer was concentrated under reduced pressure to yield a liquid. The liquid product was subjected to chromatography on silica gel, eluting with 1:9 ethyl acetate:heptane. The appropriate fractions were combined and concentrated under reduced pressure to yield a white solid. The solid was recrystallized from ethyl acetate to yield 10.5 g of 2-[(2-chloro-6-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone, m.p. 86°-88° C.

reactant | 2-chloro-6-nitrobenzyl bromide | 0.07 mole, 17.5 g | ClC1=C(CBr)C(=CC=C1)[N+](=O)[O-] | C7H5BrClNO2
reactant | 4,4-dimethyl-3-isoxazolidinone | 0.1 mole, 11.5 g | CC1(C(NOC1)=O)C | C5H9NO2
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
catalyst | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.002 mole, 0.5 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
product | 2-[(2-chloro-6-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 10.5 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CN1OCC(C1=O)(C)C | C12H13ClN2O4
